US04767760
A mixture of 8.1 parts of α-(4-chlorophenyl)-2-methoxy-4-nitrobenzeneacetonitrile, 2 parts of a solution of thiophene in methanol 4% and 200 parts of methanol is hydrogenated at normal pressure and at 50° C. with 2 parts of platinum-on-charcoal catalyst 5%. After the calculated amount of hydrogen is taken up, the catalyst is filtered off and the filtrate is evaporated in vacuo. The residue is stirred in a small amount of 2-propanol. The product is filtered off and dried, yielding 4-amino-α-(4-chlorophenyl)-2-methoxybenzeneacetonitrile.

reactant | α-(4-chlorophenyl)-2-methoxy-4-nitrobenzeneacetonitrile | ClC1=CC=C(C=C1)C(C#N)C1=C(C=C(C=C1)[N+](=O)[O-])OC | C15H11ClN2O3
reactant | thiophene | S1C=CC=C1 | C4H4S
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | platinum-on-charcoal | [Pt] | Pt
product | 4-amino-α-(4-chlorophenyl)-2-methoxybenzeneacetonitrile | NC1=CC(=C(C=C1)C(C#N)C1=CC=C(C=C1)Cl)OC | C15H13ClN2O
